US07705001B2
Lithium diisopropylamide (1.5 M in cyclohexane, 9.22 mL, 13.83 mmol) was added to a solution of 4-(tert-butyldimethylsilanyloxymethyl)-1-(2,4-dimethoxybenzyl)-pyrrolidin-2-one (2.63 g, 6.93 mmol) in THF (41 mL) at −78° C. under nitrogen. After 30 min at −78° C., hexamethylphosphoramide (3.61 mL, 20.7 mmol) was added dropwise. After 30 min at −78° C., methyl 7-iodohept-5-ynoate (5.52 g, 20.7 mmol) in THF (20 mL +3 mL) was added. The reaction mixture was allowed to warm to room temperature. After 18 h at room temperature, the reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc (3×50 mL). Combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by flash column chromatography on silica gel (40% EtOAc/hexane) to afford 579 mg (16%) of 7-[(3R*,4R*)-4-(tert-butyldimethylsilanyloxymethyl)-1-(2,4-dimethoxybenzyl)-2-oxo-pyrrolidin-3-yl]-hept-5-ynoic acid methyl ester.

reactant | Lithium diisopropylamide | 13.83 mmol, 1.5 M, 9.22 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-(tert-butyldimethylsilanyloxymethyl)-1-(2,4-dimethoxybenzyl)-pyrrolidin-2-one | 6.93 mmol, 2.63 g | [Si](C)(C)(C(C)(C)C)OCC1CC(N(C1)CC1=C(C=C(C=C1)OC)OC)=O | C20H33NO4Si
reactant | hexamethylphosphoramide | 20.7 mmol, 3.61 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | methyl 7-iodohept-5-ynoate | 20.7 mmol, 5.52 g | ICC#CCCCC(=O)OC | C8H11IO2
solvent | THF | 41 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-[(3R*,4R*)-4-(tert-butyldimethylsilanyloxymethyl)-1-(2,4-dimethoxybenzyl)-2-oxo-pyrrolidin-3-yl]-hept-5-ynoic acid methyl ester | 579 mg, 16% | COC(CCCC#CC[C@H]1C(N(C[C@@H]1CO[Si](C)(C)C(C)(C)C)CC1=C(C=C(C=C1)OC)OC)=O)=O | C28H43NO6Si
